US06660744B1
(3R)-3-Phenylbutanoyl chloride (2.22 g, 12.18 mmol) in dichloromethane (10 mL) was added to a solution of 4-[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-cyclohexanone (2.86 g, 8.12 mmol) in pyridine (50 mL) at −10° C. After 15 minutes, the ice-water bath was removed and the reaction mixture was stirred at room temperature overnight. Sodium hydroxide (1.0N, 15 mL) was added and the organic solvent was evaporated. The aqueous residue was extracted with dichloromethane. The combined organic layer was washed with brine, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography using dichlromethane/methanol (95:5) as mobile phase to give N1-{4-[4-amino-1-(4-oxocyclohexyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-(3R)-3-phenylbutanamide (3.11 g, 77%). 1H NMR (CDCl3) δ 1.40 (d, J=6.97 Hz, 3H), 2.04 (m, 1H), 2.59-2.78 (m, 9H), 3.40 (m, 1H), 3.98 (s, 3H), 5.28 (m, 1H), 5.70 (bs, 2H), 7.15-7.35 (m, 7H), 7.66 (s, 1H), 8.38 (s, 1H), 8.51 (d, J=8.18, 1H). HPLC (Waters Alliance-Column: Waters SymmetryShield, RP18, 3.5 um, 2.1×50 mm. Eluents: 5% B/A to 95% B/A in 9.0 min.(B: acetonitrile, A: 100 mM ammonia acetate buffer, pH 4.5), 0.5 mL/min.): Rt=6.273 min.

reactant | (3R)-3-Phenylbutanoyl chloride | 12.18 mmol, 2.22 g | C1(=CC=CC=C1)[C@@H](CC(=O)Cl)C | C10H11ClO
reactant | 4-[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-cyclohexanone | 8.12 mmol, 2.86 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)N)OC)C2CCC(CC2)=O | C18H20N6O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | N1-{4-[4-amino-1-(4-oxocyclohexyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-(3R)-3-phenylbutanamide | 3.11 g, 77% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C[C@@H](C)C2=CC=CC=C2)=O)OC)C2CCC(CC2)=O | C28H30N6O3
